US07981874B2
4-[tert-Butoxycarbonylamino(dimethoxy-phosphoryl)-methyl]-benzoic acid.
4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester (150 mg, 0.402 mmol) was made 0.25 M in dioxane and to this stirring solution was added 3 M aq LiOH (29 mg, 1.205 mmol). The resulting mixture was stirred at ambient temperature for 18 hours. The reaction mixture was diluted with EtOAc and washed with 1N aq HCl. The organic layer was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was carried onto subsequent coupling without further purification: 1H NMR (DMSO-d6, 600 MHz) 12.68 (br-s, 1H), 8.07-8.13 (m, 1H), 7.84-7.92 (m, 2H), 7.50-7.61 (m, 2H), 5.15-5.25 (m, 1H), 3.46-3.63 (m, 6H), 1.36 (s, 9H).

reactant | 4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester | 0.402 mmol, 150 mg | COC(C1=CC=C(C=C1)C(P(=O)(OC)OC)NC(=O)OC(C)(C)C)=O | C16H24NO7P
reactant | LiOH | 1.205 mmol, 3 M, 29 mg | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[tert-Butoxycarbonylamino(dimethoxy-phosphoryl)-methyl]-benzoic acid | C(C)(C)(C)OC(=O)NC(C1=CC=C(C(=O)O)C=C1)P(=O)(OC)OC | C15H22NO7P
